US05273986
A solution composed of 1.0 g of 4-carboxymethyl benzoic acid methyl ester, 1.3 g of (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine, 1.0 g of N-ethyl-N-(dimethylaminopropyl) carbodiimide, 2.4 g of 4-dimethylaminopyridine and 75 ml of methylene chloride was stored at 0° C. After 16 hr. the reaction mixture was washed with 75 ml of water, dried (MgSO4) and the solvents removed by rotary evaporation. The residual materials were recrystallized with ethyl acetate to yield 2.1 g of (E)-4-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid methyl ester; m.p. 163°-164° C.

reactant | 4-carboxymethyl benzoic acid methyl ester | 1.0 g | COC(C1=CC=C(C=C1)CC(=O)O)=O | C10H10O4
reactant | (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine | 1.3 g | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C15H16N2S
catalyst | 4-dimethylaminopyridine | 2.4 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | (E)-4-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid methyl ester | 2.1 g | COC(C1=CC=C(C=C1)CC(=O)NC1=CC(=CC=C1)\C=C\C=1SC=C(N1)C1CCC1)=O | C25H24N2O3S
